US06124343
Methyl 2-chlorophenylacetate
A solution of 2-chlorophenylacetic acid (10.0 g) in methanol (100 ml) containing 1 drop of concentrated sulphuric acid was heated at reflux for 2 hours. The reaction mixture was evaporated to half volume and partitioned between ethyl acetate (100 ml) and water (100 ml). The organic phase was dried over magnesium sulphate and evaporated to give the title compound (10.0 g) as a colourless oil.

reactant | 2-chlorophenylacetic acid | 10.0 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | methanol | 100 ml | CO | CH4O
catalyst | sulphuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-chlorophenylacetate | 10.0 g | ClC1=C(C=CC=C1)CC(=O)OC | C9H9ClO2
